US04236012
To 8.07 g of 4-phenyl-1,2-butene was added 250 ml of a chloroform solution containing perbenzoic acid prepared from 37.0 g of benzoyl peroxide, and the mixture was allowed to stand at 0° to 5° C. for 5 days. The mixture was washed in turn with a 10% sodium hydroxide solution, a saturated sodium chloride solution, Mohr's salt solution, a 10% sodium hydrogen carbonate solution and a saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was evaporated to obtain an oily substance, which was distilled to give 6.72 g (yield: 74%) of 1,2-epoxy-4-phenylbutene as a colorless liquid having a boiling point of 105° to 114° C.

reactant | perbenzoic acid | C1=CC=CC=C1C(=O)OO | C7H6O3
reactant | benzoyl peroxide | 37.0 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,2-epoxy-4-phenylbutene | 6.72 g, yield: 74% | O1C=C1CCC1=CC=CC=C1 | C10H10O
